US04092474
To a solution of diphenylmethyl 7-(2-thienylacetamido)-3-(1-benzyloxyethyl)-3-cephem-4-carboxylate (stereoisomer A: 160 mg) in methylene chloride (1.6 ml) are added anisole (0.32 ml) and trifluoroacetic acid (0.32 ml). After 15 minutes, the reaction mixture is evaporated to dryness, and the obtained residue is dissolved in ethyl acetate. The solution is extracted with aqueous sodium hydrogen carbonate solution. The extract solution is evaporated with ethyl acetate, cooled with ice, stirred and neutralized with 1N-hydrochloric acid to pH 2.0, and is extracted with ethyl acetate. The extract solution is washed with saline, dried over sodium sulfate, and evaporated to give 7-(2-thienylacetamido)-3-(1-benzoyloxyethyl)-3-cephem-4-carboxylic acid (stereoisomer A: 60 mg). m.p. 114°-118° C. RF: same with the benzylamine salt described below.

reactant | diphenylmethyl 7-(2-thienylacetamido)-3-(1-benzyloxyethyl)-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)OCC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C35H32N2O5S2
reactant | anisole | 0.32 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.32 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1.6 ml | C(Cl)Cl | CH2Cl2
product | 7-(2-thienylacetamido)-3-(1-benzoyloxyethyl)-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)OC(C2=CC=CC=C2)=O)C(=O)O)C1=O | C22H20N2O6S2
